US05728370
Bis-(2,2,6,6-tetramethylbenzo[1,2-d:4,5-d']-bis(1,3)-dithiole-4-yl)-mono-(2,2,6,6-tetramethylbenzo[1,2-d:4,5-d']-bis(1,3)dioxole-4-yl)methanol
2,2,6,6-Tetramethylbenzo[1,2-d:4,5-d']bis(1,3)dithiole (2.86 g, 10 mmol; prepared according to WO-91/12024) was dissolved in anhydrous THF (75 mL) and cooled to -70° C. n-Butyllithium (4.4 mL, 2.5M in hexane) was added. The reaction mixture was allowed to reach ambient temperature. 4-Methoxycarbonyl-2,2,6,6-tetramethylbenzo-[1,2-d:4,5-d')-bis-(1,3)-dioxole (1.4 g, 5 mmol) was added as a solid. After 1 hour, the mixture was quenched with saturated aqueous NaH2PO4. The aqueous phase was discarded and the organic layer evaporated. The residue was dissolved in dichloromethane, washed with water and dried (Na2SO4). The product was purified by column chromatography (dichloromethane:heptane, 1:1) giving 1.8 g (44%) of pure product.

reactant | 2,2,6,6-Tetramethylbenzo[1,2-d:4,5-d']bis(1,3)dithiole | CC1(SC2=C(S1)C=C1C(SC(S1)(C)C)=C2)C | C12H14S4
reactant | n-Butyllithium | 2.5M, 4.4 mL | C(CCC)[Li]
reactant | 4-Methoxycarbonyl-2,2,6,6-tetramethylbenzo-[1,2-d:4,5-d')-bis-(1,3)-dioxole | 5 mmol, 1.4 g | COC(=O)C1=C2C(OC(O2)(C)C)=CC2=C1OC(O2)(C)C | C14H16O6
solvent | THF | 75 mL | C1CCOC1 | C4H8O
product | Bis-(2,2,6,6-tetramethylbenzo[1,2-d:4,5-d']-bis(1,3)-dithiole-4-yl)-mono-(2,2,6,6-tetramethylbenzo[1,2-d:4,5-d']-bis(1,3)dioxole-4-yl)methanol | 1.8 g, 44% | CC1(SC2=C(S1)C(=C1C(SC(S1)(C)C)=C2)C(O)(C2=C1C(OC(O1)(C)C)=CC1=C2OC(O1)(C)C)C1=C2C(SC(S2)(C)C)=CC2=C1SC(S2)(C)C)C | C37H40O5S8
